US07238716B2
2-[2-({4-[(5-Methyl-2-phenyl-4-oxazolyl)methoxy]benzyl}oxy)pyridin-3-yl]ethanol (10.0 g) was suspended in acetonitrile (100 ml) and the aforementioned phosphate buffer (70 ml) and 2,2,6,6-tetramethyl-1-piperidinyloxyradical (131.2 mg) was added at 25° C. To the obtained mixture were simultaneously added dropwise a solution of 5% sodium hypochlorite (355 mg) in water (5 ml) and a solution of sodium chlorite (5.43 g) in water (15 ml) at 25° C. and the mixture was stirred for 1 hr. 0.2N-Sodium hydroxide was added to adjust the reaction solution to pH 8, and a solution of sodium sulfite (7.260 g) in water (100 ml) was dropwise added. The reaction solution was stirred for 20 min. and acetonitrile was evaporated under reduced pressure. Toluene (100 ml), tetrahydrofuran (50 ml) and 2N-sodium hydroxide (12 ml) were added to the residue to partition the mixture. The organic layer was extracted with water (50 ml), and aqueous layers were combined and washed with a mixture of toluene (100 ml) and tetrahydrofuran (50 ml). 6N Hydrochloric acid was dropwise added to adjust the aqueous layer to pH 7.0, and toluene (150 ml) and tetrahydrofuran (70 ml) were added 6N Hydrochloric acid was added to adjust the mixture to pH 6.5 and the mixture was partitioned. The organic layer was washed with 5% brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Tetrahydrofuran (20 ml) was added to the obtained crystals and the mixture was refluxed. Isopropyl ether (20 ml) was added to the obtained solution, and after stirring for 1 hr., the mixture was stirred under ice-cooling for 2 hrs. The obtained crystals were filtrated, washed with isopropyl ether (20 ml) ice-cooled in advance, and dried under reduced pressure at 40° C. to give 2-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetic acid as white crystals.

reactant | 2-[2-({4-[(5-Methyl-2-phenyl-4-oxazolyl)methoxy]benzyl}oxy)pyridin-3-yl]ethanol | 10.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=NC=CC=C2CCO)C=C1 | C25H24N2O4
reactant | phosphate | 70 ml | P(=O)([O-])([O-])[O-]
reactant | sodium hypochlorite | 355 mg | Cl[O-].[Na+]
reactant | sodium chlorite | 5.43 g | Cl(=O)[O-].[Na+]
reactant | Sodium hydroxide | [OH-].[Na+]
reactant | sodium sulfite | 7.260 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | water | 5 ml | O | H2O
solvent | water | 15 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 2-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetic acid | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=NC=CC=C2CC(=O)O)C=C1 | C25H22N2O5
